US07253178B2
[2-(Benzyloxy)-4-pyridyl]methanol
A suspension of lithium aluminum hydride (3.0 g) in diethyl ether (300 mL) was cooled on ice in a nitrogen atmosphere, and then a solution of methyl 2-(benzyloxy)isonicotinate (13.07 g) in diethyl ether (50 mL) wad added dropwise thereinto over 1.5 hours. After stirring for 1 hour, water (3 mL), 5N aqueous sodium hydroxide solution (3 mL) and water (9 mL) were successively added dropwise thereinto under ice-cooling. The insoluble matters were filtered off and washed with diethyl ether, and the filtrate was concentrated. After diethyl ether was added to the residue, the solution was dried over anhydrous sodium sulfate and then concentrated. The residue was purified by silica gel column chromatography to give the title compound as a pale red oil (9.57 g).

reactant | lithium aluminum hydride | 3.0 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | methyl 2-(benzyloxy)isonicotinate | 13.07 g | C(C1=CC=CC=C1)OC=1C=C(C(=O)OC)C=CN1 | C14H13NO3
reactant | water | 3 mL | O | H2O
reactant | sodium hydroxide | 5N, 3 mL | [OH-].[Na+]
reactant | water | 9 mL | O | H2O
solvent | diethyl ether | 300 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 50 mL | C(C)OCC | C4H10O
product | [2-(Benzyloxy)-4-pyridyl]methanol | 9.57 g | C(C1=CC=CC=C1)OC1=NC=CC(=C1)CO | C13H13NO2
